US09126998B2
3-Bromo-N-(4-fluorophenyl)propanamide
5.75 ml of 4-fluoroaniline (6.65 g, 59.88 mmol, 1 equivalent) were initially charged in 65 ml of THF, 33 ml of 2 M trimethylaluminium solution in hexane (65.87 mmol, 1.1 equivalents) were added at −78° C. and the mixture was stirred for 20 min, slowly warming to RT. At −20° C., this solution was added dropwise to a solution of 6.54 ml (10 g, 59.8 mmol, 1 equivalent) of methyl 3-bromopropanoate in 65 ml of THF and then stirred at RT for 3 h. At 0° C., the reaction solution was acidified carefully with 1 N aqueous hydrochloric acid solution and extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated. This gave 12.6 g (67% of theory; purity 78%) of the title compound which was reacted further without purification.

reactant | 4-fluoroaniline | 59.88 mmol, 5.75 ml, 6.65 g, 1 equivalent | FC1=CC=C(N)C=C1 | C6H6FN
reactant | trimethylaluminium | 2 M, 33 ml | C[Al](C)C
reactant | hexane | 65.87 mmol, 1.1 equivalents | CCCCCC | C6H14
reactant | methyl 3-bromopropanoate | 59.8 mmol, 6.54 ml, 10 g, 1 equivalent | BrCCC(=O)OC | C4H7BrO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | 3-Bromo-N-(4-fluorophenyl)propanamide | BrCCC(=O)NC1=CC=C(C=C1)F | C9H9BrFNO
